US04908368
To a mixture of 0.5 g of [[5-[[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl]thio]-1,3,4-thiadiazol-2-yl]thio]acetic acid, obtained in Example 22 0.23 g of dicyclohexylcarbodiimide, 0.14 g of 1-hydroxybenzotriazole, and 50 ml of tetrahydrofuran was added a mixture of 0.27 g of N-methylhydroxylamine.hydrochloride, 0.3 g of triethylamine, and 5 ml of N,N-dimethylformamide and the resultant mixture was stirred overnight at room temperature. Then, insoluble matters were filtered off and the filtrate thus formed was concentrated under reduced pressure. To the residue thus formed was added 100 ml of ethyl acetate and the mixture was washed with water, washed with a diluted aqueous solution of sodium hydrogencarbonate, and water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To the residue thus obtained was added ethyl acetate, then insoluble materials were filtered off and the filtrate formed was concentrated. The residue thus obtained was recrystallized from a mixture of toluene and n-hexane to provide 0.18 g of 2-[[5-[[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl]thio]-1,3,4-thiadiazol-2-yl]thio]-N-hydroxy-N-methylacetamide.

reactant | [[5-[[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl]thio]-1,3,4-thiadiazol-2-yl]thio]acetic acid | 0.5 g | C(C)(=O)C1=C(C(=C(OCCCSC2=NN=C(S2)SCC(=O)O)C=C1)CCC)O | C18H22N2O5S3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 0.14 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylhydroxylamine.hydrochloride | 0.27 g | Cl.CNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[[5-[[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl]thio]-1,3,4-thiadiazol-2-yl]thio]-N-hydroxy-N-methylacetamide | 0.18 g | C(C)(=O)C1=C(C(=C(OCCCSC2=NN=C(S2)SCC(=O)N(C)O)C=C1)CCC)O | C19H25N3O5S3
